US09382500B2
1-(5-(hex-2-enyl)benzo[d][1,3]dioxol-2-yl)ethanone
A solution of 1-(5-allylbenzo[d][1,3]dioxol-2-yl)ethanone (5 g), phenylmethylenebis(tricyclohexylphosphine) ruthenium dichloride (0.9 g) and pent-1-ene (5 g) in dichloromethane (40 ml) was stirred at room temperature. After 2 hours, a control by gc analysis shows 60% conversion, but three additional portions of 5 g of pent-1-ene were added during the reaction time (48 hours) to go to completion. Then, the reaction mixture was filtered on a short column of silica gel and concentrated in vacuum to remove the solvent. Finely the crude product was purified by flash chromatography on silica gel (eluant heptane/ethyl acetate 95/5) to give 0.8 g (19%) of a colorless oil, identified as a 85/15 E/Z mixture.

reactant | 1-(5-allylbenzo[d][1,3]dioxol-2-yl)ethanone | 5 g | C(C=C)C1=CC2=C(OC(O2)C(C)=O)C=C1 | C12H12O3
reactant | pent-1-ene | 5 g | C=CCCC | C5H10
reactant | pent-1-ene | 5 g | C=CCCC | C5H10
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | phenylmethylenebis(tricyclohexylphosphine) ruthenium dichloride | 0.9 g | [Ru](Cl)Cl.C1(=CC=CC=C1)C(P(C1CCCCC1)(C1CCCCC1)C1CCCCC1)P(C1CCCCC1)(C1CCCCC1)C1CCCCC1
product | 1-(5-(hex-2-enyl)benzo[d][1,3]dioxol-2-yl)ethanone | 0.8 g, 19% | C(C=CCCC)C1=CC2=C(OC(O2)C(C)=O)C=C1 | C15H18O3
